US07129238B2
(RS)-(2-Fluoro-4-methoxy-phenyl)-methoxy-acetic acid, described in example 15.1 was coupled with 4-aminomethyl-3-chlorobenzonitrile (CAS 202521-97-9) according to general procedure B to give (RS)-N-(2-chloro-4-cyano-benzyl)-2-(2-fluoro-4-methoxy-phenyl)-2-methoxy-acetamide. Light green solid. MS 361.1 ([M−H]−)

reactant | (RS)-(2-Fluoro-4-methoxy-phenyl)-methoxy-acetic acid | FC1=C(C=CC(=C1)OC)C(C(=O)O)OC | C10H11FO4
reactant | 4-aminomethyl-3-chlorobenzonitrile | NCC1=C(C=C(C#N)C=C1)Cl | C8H7ClN2
product | (RS)-N-(2-chloro-4-cyano-benzyl)-2-(2-fluoro-4-methoxy-phenyl)-2-methoxy-acetamide | ClC1=C(CNC(C(OC)C2=C(C=C(C=C2)OC)F)=O)C=CC(=C1)C#N | C18H16ClFN2O3
